US07858632B2
To a solution of 2-Isopropyl4-methoxy-1-(toluene4-sulfonyl)-benzene (10 g, 31.25 mmol) in HOAc (10 ml) was added a solution of ICl (9.6 g, 59.26 mmol) in HOAc (10 ml) and H2O (5 ml). The reaction mixture was stirred at room temperature for 16 hrs and basified by saturated NaHCO3 solution. The aqueous solution was extracted into EtOAc which was washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo to give 1-Iodo4-isopropyl-2-methoxy-5-(toluene4-sulfonyl)-benzene (12.35 g, 89%).

reactant | 2-Isopropyl4-methoxy-1-(toluene4-sulfonyl)-benzene | 31.25 mmol, 10 g | C(C)(C)C1=C(C=CC(=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C | C17H20O3S
reactant | ICl | 59.26 mmol, 9.6 g | ICl | ClI
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
solvent | HOAc | 10 ml | CC(=O)O | C2H4O2
solvent | H2O | 5 ml | O | H2O
product | 1-Iodo4-isopropyl-2-methoxy-5-(toluene4-sulfonyl)-benzene | 12.35 g, 89% | IC1=C(C=C(C(=C1)S(=O)(=O)C1=CC=C(C=C1)C)C(C)C)OC | C17H19IO3S
